US07435823B2
Preparation of N1-methyl-N1-(1-methylpiperidin-4-yl)-4-(trifluoromethyl)benzene-1,2-diamine
To a solution of N,1-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-4-amine (11.3 g, 35.6 mmol) in MeOH (260 mL) at RT was added 10% Pd/C (1.89 g). H2 gas was bubbled through the solution for 5 minutes and the reaction was stirred under an atmosphere of H2 gas. The reaction was monitored by LCMS, and H2 gas was added periodically until consumption of starting material. The mixture was filtered through Celite® with MeOH and concentrated to afford the desired product.

reactant | N,1-dimethyl-N-(2-nitro-4-(trifluoromethyl)phenyl)piperidin-4-amine | 35.6 mmol, 11.3 g | CN(C1CCN(CC1)C)C1=C(C=C(C=C1)C(F)(F)F)[N+](=O)[O-] | C14H18F3N3O2
solvent | MeOH | 260 mL | CO | CH4O
catalyst | Pd/C | 1.89 g | [Pd] | Pd
product | N1-methyl-N1-(1-methylpiperidin-4-yl)-4-(trifluoromethyl)benzene-1,2-diamine | CN(C=1C(=CC(=CC1)C(F)(F)F)N)C1CCN(CC1)C | C14H20F3N3
